US05891909
b) 3-[5-Methyl-3-(2-trifluoromethylbenzyloxy)phenoxy]propanol
To a solution of 5-methyl-3-(2-trifluoromethylbenzyloxy)phenol (1.41 g, 5.0 mmol), as prepared in the preceding step, tri-n-butylphosphine (1.62 g, 8.0 mmol) and 1,3-propanediol (1.90 g, 25 rnmol) in anhydrous tetrahydrofuran (50 mL) was added 1,1'-(azodicarbonyl) dipiperidine (2.01 g, 8.0 mmol). The mixture was stirred at ambient temperature overnight. Hexane (100 mL) was added to the mixture and the precipitates were removed by filtration. The filtrate was evaporated in vacuo, and the residue was purified by flash column chromatography (2:1 hexane/ethyl acetate) to give the title compound as a colorless oil (1.50 g, 84%). 1H-NMR (300 MHz, CDCl3) δ 7.74 (d, J=7.8 Hz, 1 H), 7.69 (d, J=7.8 Hz, 1 H), 7.56 (t, J=7.6 Hz, 1 H), 7.41 (t, J=7.7 Hz, 1 H), 6.41 (s, 1 H), 6.37 (s, 2 H), 5.23 (s, 2 H), 4.08 (t, J=6.0 Hz, 2 H), 3.85 (t, J=6.0 Hz, 2 H), 2.29 (s, 3 H), 2.02 (t, J =6.0 Hz, 2 H), 1.76 (s, 1 H).

reactant | 5-methyl-3-(2-trifluoromethylbenzyloxy)phenol | 5.0 mmol, 1.41 g | CC=1C=C(C=C(C1)O)OCC1=C(C=CC=C1)C(F)(F)F | C15H13F3O2
reactant | tri-n-butylphosphine | 8.0 mmol, 1.62 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,3-propanediol | 1.90 g | C(CCO)O | C3H8O2
reactant | 1,1'-(azodicarbonyl) dipiperidine | 8.0 mmol, 2.01 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | Hexane | 100 mL | CCCCCC | C6H14
product | 3-[5-Methyl-3-(2-trifluoromethylbenzyloxy)phenoxy]propanol | 1.50 g, 84% | CC=1C=C(C=C(OCCCO)C1)OCC1=C(C=CC=C1)C(F)(F)F | C18H19F3O3
